US08957070B2
1-(Methoxymethyl)-7-[(methoxymethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (4.43 g), 8N aqueous sodium hydroxide solution (2.5 mL), tetrahydrofuran (10 mL) and ethanol (10 mL) was stirred at 60° C. for 1 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (3.86 g, yield 93%) as colorless crystals. melting point 183-184° C.

reactant | ethyl 1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 4.43 g | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)COC)C(=O)OCC | C19H22N2O6S2
reactant | sodium hydroxide | 8N, 2.5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(Methoxymethyl)-7-[(methoxymethyl) (2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 3.86 g, yield 93% | COCN1C(=CC2=CC=CC(=C12)N(S(=O)(=O)C=1SC=CC1)COC)C(=O)O | C17H18N2O6S2
